US06916819B2
A mixture of 3-(5-Bromo-1-ethyl-1H-benzoimidazol-2-yl)-1-(3-fluoro-phenyl)-propan-1-one (0.1 g, 0.27 mmol) and tris(dimethylamino)methane (0.077 g, 0.54 mmol) is heated at 60° C. in a sealed tube for 6 hours. The volatile material is removed in vacuo. To the residue is added EtOH (5 mL) and hydroxylamine (1.1 mmol). The mixture is heated at 120° C. for 2 hours. The solvent is removed. To the residue is added NaHCO3 (aq.) (10 mL) and DCM (30 mL). The organic layer is separated and the aqueous layer is extracted with DCM (2×15 mL). The combined organic layers are dried and the solvent removed. The crude is purified by PTLC (ethyl acetate/Hexanes 1:1) to give 5-Bromo-1-ethyl-2-[3-(3-fluoro-phenyl)-isoxazol-4-ylmethyl]-1H-benzoimidazole as a solid. 1H NMR (CDCl3) δ 8.40 (s, 1H), 7.88 (s, 1H), 7.31-7.52 (m, 4H), 7.18-7.22 (m, 2H), 4.14 (s, 2H), 4.04 (q, 2H), 1.18 (t, 3H).

reactant | 3-(5-Bromo-1-ethyl-1H-benzoimidazol-2-yl)-1-(3-fluoro-phenyl)-propan-1-one | 0.27 mmol, 0.1 g | BrC1=CC2=C(N(C(=N2)CCC(=O)C2=CC(=CC=C2)F)CC)C=C1 | C18H16BrFN2O
reactant | tris(dimethylamino)methane | 0.54 mmol, 0.077 g | CN(C)C(N(C)C)N(C)C | C7H19N3
reactant | hydroxylamine | 1.1 mmol | NO | H3NO
solvent | EtOH | 5 mL | CCO | C2H6O
product | 5-Bromo-1-ethyl-2-[3-(3-fluoro-phenyl)-isoxazol-4-ylmethyl]-1H-benzoimidazole | BrC1=CC2=C(N(C(=N2)CC=2C(=NOC2)C2=CC(=CC=C2)F)CC)C=C1 | C19H15BrFN3O
